US07507740B2
Production of N-[4-(benzyloxy)-3-chlorophenyl]-5H-pyrrolo[3,2-d]pyrimidin-4-amine
A mixture of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (200 mg), 4-(benzyloxy)-3-chloroaniline (365 mg) and 1-methyl-2-pyrrolidone (3 mL) was stirred at 80° C. for 4 hrs. Methanol and activated carbon were added to the reaction mixture and the mixture was stirred. The activated carbon was filtered off, aqueous sodium hydrogen carbonate solution was added and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent, methanol:ethyl acetate=0:100→15:75) and recrystallized from ethanol-ethyl acetate to give the title compound (226 mg) as a pale-brown powder.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 200 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | 4-(benzyloxy)-3-chloroaniline | 365 mg | C(C1=CC=CC=C1)OC1=C(C=C(N)C=C1)Cl | C13H12ClNO
reactant | 1-methyl-2-pyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
solvent | Methanol | CO | CH4O
product | N-[4-(benzyloxy)-3-chlorophenyl]-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 226 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)NC=1C2=C(N=CN1)C=CN2)Cl | C19H15ClN4O
